US07872000B2
2-Chloro-5,6,7,8,9,10-hexahydrocycloocta[d]pyrimidine (1.5 g) was treated with anhydrous pyridine (15 mL) and anhydrous hydrazine (7 mL) at 120° C. for 3.75 h. The solvent was removed under vacuum. The residue was partitioned between chloroform and 1M aqueous potassium carbonate solution. The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum to give 2-hydrazinyl-5,6,7,8,9,10-hexahydrocycloocta[d]pyrimidine as a beige solid, 1.28 g; 1H NMR (CDCl3, 300 MHz) 8.00 (s, 1H), 6.63 (br s, 1H), 3.93 (br s, 2H), 2.76 (m, 2H), 2.60 (m, 2H), 1.74 (m, 2H), 1.63 (m, 2H), 1.40 (m, 4H) ppm; 13C NMR (CDCl3, 75 MHz) 170.57, 163.81, 157.22, 124.14, 34.31, 32.65, 30.24, 28.66, 26.32, 26.08; MS (ES) 193 (M+H).

reactant | 2-Chloro-5,6,7,8,9,10-hexahydrocycloocta[d]pyrimidine | 1.5 g | ClC=1N=CC2=C(N1)CCCCCC2 | C10H13ClN2
reactant | hydrazine | 7 mL | NN | H4N2
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 2-hydrazinyl-5,6,7,8,9,10-hexahydrocycloocta[d]pyrimidine | N(N)C=1N=CC2=C(N1)CCCCCC2 | C10H16N4
